US07675228B2
5-Methyl-2-(4-trimethylsilanyl-phenyl)-pyridine
15.0 g (0.0773 mol) of 4-trimethylsilyl-phenylboronic acid, 11.96 g (0.0695 mol) of 2-bromo-5-methyl-pyridine, 15.11 g (0.0464 mol) of cesium carbonate, 0.71 g (0.000776 mol) of tris(dibenzylideneacetone) dipalladium (0), 0.43 g (0.00182 mol) of benzyl-di-tert-butyl-phosphane and 100 ml of dioxane were stirred at room temperature for 12 hr. The reaction mixture was filtered and the solvent was removed under 1 mm vacuum. The resulting mixture was purified by distillation in vacuum. Yield of 5-methyl-2-(4-trimethylsilanyl-phenyl)-pyridine was 8.05 g (48%) as a yellow solid with b.p. 111-114° C./0.02 mm and m.p. 66.07° C. 1H NMR (CD2Cl2) 2.15 (s, 3H, Me) 7.45-8.50 (m, 7H, arom-H). Anal. Found: C, 74.34; H, 7.86; N, 5.85. The structure was confirmed by X-ray analysis.

reactant | 4-trimethylsilyl-phenylboronic acid | 0.0773 mol, 15.0 g | C[Si](C1=CC=C(C=C1)B(O)O)(C)C | C9H15BO2Si
reactant | 2-bromo-5-methyl-pyridine | 0.0695 mol, 11.96 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | cesium carbonate | 0.0464 mol, 15.11 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl-di-tert-butyl-phosphane | 0.00182 mol, 0.43 g | C(C1=CC=CC=C1)P(C(C)(C)C)C(C)(C)C | C15H25P
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 0.000776 mol, 0.71 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 5-Methyl-2-(4-trimethylsilanyl-phenyl)-pyridine | CC=1C=CC(=NC1)C1=CC=C(C=C1)[Si](C)(C)C | C15H19NSi
